US04985444
A mixture of glyoxylic acid monohydrate (3.50 g) and 3-acetyl-2-phenylpyrazolo[1,5-a]pyridine (5.00 g) was stirred and heated at 100° C. for 4 hours. The warm reaction mixture was dissolved in methylene chloride (50 ml), and then extracted with 1N aqueous solution of sodium hydroxide (50 ml). The aqueous layer was washed with methylene chloride (total 200 ml) and then with ethyl acetate (total 200 ml). The aqueous solution was adjusted to pH 4~5 with 10% hydrochloric acid. The isolated oil was extracted with chloroform. The extract was evaporated in vacuo and crystallized from methylene chloride to give 4-oxo-4-(2phenylpyrazolo[1,5-a]pyridin-3-yl)crotonic acid (0.46 g).

reactant | glyoxylic acid monohydrate | 3.50 g | O.C(C=O)(=O)O
reactant | 3-acetyl-2-phenylpyrazolo[1,5-a]pyridine | 5.00 g | C(C)(=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C15H12N2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-oxo-4-(2phenylpyrazolo[1,5-a]pyridin-3-yl)crotonic acid | 0.46 g | O=C(/C=C/C(=O)O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N2O3
